US06982348B2
To a solution of ethyl 3-oxo-3-phenylpropionate (28.6 g, 145 mmol) in 1,2-dimethoxyethane (1.50 ml) was added sodium hydride (60% in oil, 5.65 g, 141 mmol) under ice-cooling and the mixture was stirred at room temperature for 1 hr. To the reaction solution was dropwise added a solution of 4-trifluoromethylbenzyl bromide (33.8 g, 141 mmol) in 1,2-dimethoxyethane (50 ml) and the reaction solution was stirred at room temperature for 2 hrs. The reaction solution was poured into water (500 ml) and extracted with ethyl acetate (500 ml×2). The extract was washed with water and saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (toluene) to give ethyl 3-oxo-3-phenyl-2-((4-(trifluoromethyl)phenyl)methyl)propionate (45.4 g, 75%) as a yellow oil.

reactant | ethyl 3-oxo-3-phenylpropionate | 145 mmol, 28.6 g | O=C(CC(=O)OCC)C1=CC=CC=C1 | C11H12O3
reactant | sodium hydride | 141 mmol, 5.65 g | [H-].[Na+]
reactant | 4-trifluoromethylbenzyl bromide | 141 mmol, 33.8 g | FC(C1=CC=C(CBr)C=C1)(F)F | C8H6BrF3
reactant | water | 500 ml | O | H2O
solvent | 1,2-dimethoxyethane | 1.50 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 50 ml | COCCOC | C4H10O2
product | ethyl 3-oxo-3-phenyl-2-((4-(trifluoromethyl)phenyl)methyl)propionate | 45.4 g, 75% | O=C(C(C(=O)OCC)CC1=CC=C(C=C1)C(F)(F)F)C1=CC=CC=C1 | C19H17F3O3
